US05246948
Synthesis of 4-[4-(benzoylamino)butylthio]pyridine
To a solution of 1.00 g (5.49 mmol) of 4-(4-aminobutylthio)pyridine and 0.92 ml (6.60 mmol) of triethylamine in 30 ml of methylene chloride, 0.67 ml (5.77 mmol) of benzoyl chloride was added with stirring under ice-cooling and the mixture was stirred at room temperature for 13 hours. The mixture was washed with saturated aqueous sodium bicarbonate and saturated saline, and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethyl acetate) to give 0.54 g of the desired compound (34.4% yield, colorless crystals), mp. 75°-77° C.

reactant | 4-(4-aminobutylthio)pyridine | 5.49 mmol, 1.00 g | NCCCCSC1=CC=NC=C1 | C9H14N2S
reactant | triethylamine | 6.60 mmol, 0.92 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 5.77 mmol, 0.67 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-(benzoylamino)butylthio]pyridine | 0.54 g, 34.4% yield | C(C1=CC=CC=C1)(=O)NCCCCSC1=CC=NC=C1 | C16H18N2OS
